US08217066B2
Step 2: 1-{4′-[4-(1,1-Difluoro-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 3, Step 5, using dichlorobis(triphenylphosphine)palladium(II) as the catalyst and using 5-(4-bromo-phenyl)-4-(1,1-difluoro-4-phenyl-butyl)-3-methyl-isoxazole and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | 5-(4-bromo-phenyl)-4-(1,1-difluoro-4-phenyl-butyl)-3-methyl-isoxazole | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(CCCC1=CC=CC=C1)(F)F | C20H18BrF2NO
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
catalyst | dichlorobis(triphenylphosphine)palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-{4′-[4-(1,1-Difluoro-4-phenyl-butyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CCCC1=CC=CC=C1)(F)F | C32H31F2NO3
